US05637554
A solution of 23.6 g (0.24 mol) of 4-amino-3-penten-2-one, 29.2 g (0.2 mol) of indene-1,3-(2H)dione and 7.7 g (0.1 mol) of ammonium acetate in 500 ml of acetic acid was stirred at 115° C. for 3 hours and concentrated under reduced pressure, and the residue was treated with 500 ml of water and rendered alkaline with solid potassium carbonate. The mixture was extracted three times with methylene chloride, and the combined extracts were washed with 100 ml of water and concentrated under reduced pressure. The residue was crystallized at +5° C. using 20 ml of diethyl ether. 10.2 g of 2,4-dimethyl-5H-indeno[3,2-b]pyridin-5- one were obtained as slightly yellow crystals of m.p. 102°-104° C.

reactant | 4-amino-3-penten-2-one | 0.24 mol, 23.6 g | NC(=CC(C)=O)C | C5H9NO
reactant | indene-1,3-(2H)dione | 0.2 mol, 29.2 g | C1(CC(C2=CC=CC=C12)=O)=O | C9H6O2
reactant | ammonium acetate | 0.1 mol, 7.7 g | C(C)(=O)[O-].[NH4+]
solvent | acetic acid | 500 ml | C(C)(=O)O | C2H4O2
product | 2,4-dimethyl-5H-indeno[3,2-b]pyridin-5- one | 10.2 g | CC1=CC(=C2C(=N1)C=1C=CC=CC1C2=O)C | C14H11NO
